US04650799
1,2-Bis[4-(3-pyridylcarbonyloxymethyl)-3,5-dioxopiperazin-1-yl]ethane
A mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (0.31 g, 1.0 m mol), 3-pyridylcarbonyl chloride (0.28 g, 2.0 m mol) and pyridine (10 ml) was stirred for 18 hours at room temperature. The solvent was removed from the reaction mixture under reduced pressure and the residue was extracted with chloroform. The extract solution was washed with saturated sodium bicarbonate aqueous solution successively with water, and was dried over magnesium sulfate. The residue obtained by removing the solvent under reduced pressure from the extract solution was purified by silica gel column chromatography (chloroform:ether:methanol=6:1:1, Rf value=0.3) to give the titled compound (0.12 g; yield 24%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 0.31 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | 3-pyridylcarbonyl chloride | 0.28 g | N1=CC(=CC=C1)C(=O)Cl | C6H4ClNO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-Bis[4-(3-pyridylcarbonyloxymethyl)-3,5-dioxopiperazin-1-yl]ethane | 0.12 g, yield 24% | N1=CC(=CC=C1)C(=O)OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)COC(=O)C=1C=NC=CC1)=O)=O | C24H24N6O8
